US07304081B2
Step 1. methyl 1-phenylcyclopropanecarboxylate
Methyl iodide (2.8 mL, 0.045 mol) was added to a mixture of 1-phenylcyclopropane carboxylic acid (4.9 g, 0.030 mol) and potassium carbonate (8.3 g, 0.060 mol) in N,N-dimethylformamide (40 mL, 0.5 mol) at room temperature and then stirred for 1 hour. The mixture was diluted with ether,washed with water (×2) and brine successively, dried and concentrated to give the desired product.

reactant | Methyl iodide | 0.045 mol, 2.8 mL | CI | CH3I
reactant | 1-phenylcyclopropane carboxylic acid | 0.030 mol, 4.9 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | potassium carbonate | 0.060 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 0.5 mol, 40 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | methyl 1-phenylcyclopropanecarboxylate | C1(=CC=CC=C1)C1(CC1)C(=O)OC | C11H12O2
